US07354932B2
Preparation of 2-{4-[(1-methyl-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione:
To a solution of (s)-2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione (3.89 g, 11.1 mmol) in acetonitrile (111 ml) was added 2-chloromethyl-1-methyl-1H-benzoimidazole (prepared by reaction of N-methyl-ortho-phenylenediamine with chloroacetic acid according to literature procedure Phillips, M. A. J. Chem. Soc. 1928, 2393; Goker, H.; Kus, C. Arch. Pharm. (Weinheim) 1995, 328, 425-430) (2.42 g, 13.4 mmol), diisopropylethylamine (1.93 ml, 11.1 ml), and potassium iodide (0.18 g, 1.11 ml). The mixture was stirred for 16 hours at 50° C. The mixture was concentrated, redissolved in methylene chloride (200 ml) and diluted with saturated NaCl (400 ml). The reaction was extracted with methylene chloride (3×300 ml) and the combined organic extracts were dried (Na2SO4), filtered, and concentrated in vacuo to afford a dark red oil. Purification via column chromatography on silica gel (CH2Cl2:MeOH:NH4OH, 95:4:1, v/v/v) afforded the product as a light red foam (5.12 g, 77%).

reactant | (s)-2-[4-(5,6,7,8-tetrahydro-quinolin-8-ylamino)-butyl]-isoindole-1,3-dione | 11.1 mmol, 3.89 g | N1=CC=CC=2CCC[C@@H](C12)NCCCCN1C(C2=CC=CC=C2C1=O)=O | C21H23N3O2
reactant | 2-chloromethyl-1-methyl-1H-benzoimidazole | ClCC1=NC2=C(N1C)C=CC=C2 | C9H9ClN2
reactant | N-methyl-ortho-phenylenediamine | CNC1=C(C=CC=C1)N | C7H10N2
reactant | chloroacetic acid | ClCC(=O)O | C2H3ClO2
reactant | diisopropylethylamine | 1.93 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | potassium iodide | 1.11 ml, 0.18 g | [I-].[K+]
solvent | acetonitrile | 111 ml | C(C)#N | C2H3N
product | 2-{4-[(1-methyl-1H-benzoimidazol-2-ylmethyl)-(5,6,7,8-tetrahydroquinolin-8-yl)-amino]-butyl}-isoindole-1,3-dione | 5.12 g, 77% | CN1C(=NC2=C1C=CC=C2)CN(CCCCN2C(C1=CC=CC=C1C2=O)=O)C2CCCC=1C=CC=NC21 | C30H31N5O2
